### PR TITLE
[Merged by Bors] - feat(RingTheory/MvPowerSeries): multivariable power series ring is a noetherian ring when the index is finite

### PR DESCRIPTION
**Pull request by BryceT233**
This is a split of #36507 which includes `isEmptyEquiv`, `optionEquivLeft` and `finSuccEquiv`. We use `finSuccEquiv` to show multivariable power series ring over a noetherian ring is a noetherian ring when the index is finite.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by riccardobrasca** [comment]
Can you please merge master?

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean [hunk 1]
```diff
@@ -27,8 +39,203 @@ This file establishes a number of equivalences related to power series rings.
...
+  simp only [HasAntidiagonal.mem_antidiagonal, mem_image, mem_product, Prod.mk.injEq, Prod.exists]
+  refine ⟨fun h ↦ ⟨u none, v none, u.some, v.some, ⟨?_, ?_⟩, by simp⟩,
+    fun ⟨a, b, i, j, h1, h2, h3⟩ ↦ ?_⟩
+  · rw [← Finsupp.add_apply, h, optionElim_apply_none]
+  · rw [← some_add, h, some_optionElim]
+  · rw [← h2, ← h3, ← optionElim_add, h1.left, h1.right]
+
+variable (R σ) in
+/-- Implementation detail for `optionEquivLeft`. Use `MvPowerSeries.optionEquivLeft` instead. -/
+def optionFunLeft (p : MvPowerSeries (Option σ) R) : PowerSeries (MvPowerSeries σ R) :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Equiv.lean]: If this is just an implementation detail, can you make it `private`?

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean [hunk 2]
```diff
@@ -27,8 +39,203 @@ This file establishes a number of equivalences related to power series rings.
...
+  classical
+  ext
+  simpa [coeff_coeff_optionFunLeft, coeff_mul, PowerSeries.coeff_mul, ← sum_product',
+    ← image_optionElim_product_antidiagonal] using sum_image
+      (LeftInverse.injective (g := fun (x, y) ↦ ((x none, y none), x.some, y.some))
+      (fun _ ↦ by simp)).injOn
+
+variable (R σ) in
+/-- An inverse function of `optionFunLeft`. -/
+def optionInvFunLeft (p : PowerSeries (MvPowerSeries σ R)) : MvPowerSeries (Option σ) R :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Equiv.lean]: Same.

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean [hunk 3]
```diff
@@ -27,8 +39,203 @@ This file establishes a number of equivalences related to power series rings.
...
+  · rw [coeff_C, if_neg (by tauto)]
+  · rw [coeff_zero]
+
+theorem finSuccEquiv_comp_C : (MvPowerSeries.finSuccEquiv R n).symm.toRingHom.comp
+    (PowerSeries.C.comp MvPowerSeries.C) = MvPowerSeries.C := by
+  ext1; simp [AlgEquiv.symm_apply_eq]
+
+variable (S : Type*) [CommRing S] [IsNoetherianRing S]
+
+theorem isNoetherianRing_fin (n : ℕ) : IsNoetherianRing (MvPowerSeries (Fin n) S) := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Equiv.lean]: This should be private I think, one should just use the instance below.

File: Mathlib/RingTheory/MvPowerSeries/Equiv.lean [hunk 4]
```diff
@@ -27,8 +39,203 @@ This file establishes a number of equivalences related to power series rings.
 
 noncomputable section
 
+open Finsupp Finset Function
+
 namespace MvPowerSeries
 
+section CommSemiRing
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Equiv.lean]:
```suggestion
section CommSemiring
```

**Review by riccardobrasca — COMMENTED** [review]
Sooner or later we may want a split similar to `MvPolynomial/Equiv.lean` and friends, but this is for another PR.

**Comment by BryceT233** [comment]
Thanks for the review! I applied the suggestions and golfed a proof using `Finset.sum_sigma` and `Finset.sum_bij`(so that I don't need a separate private lemma now, this new proof strategy should also work for proving multiplications for `rename` in my earlier work, maybe I will refactor that later)

**Comment by riccardobrasca** [comment]
Can you please merge master and see if it still works? Thanks!

bors d+

**Comment by BryceT233** [comment]
Yes, it still works
